US20010014737A1
e) Methyl 2-[N-(tert-butoxycarbonyl)-N-(4-trifluoromethylbenzyl)aminomethyl]-4-methoxydihydrocinnamate
To 10% Pd/C (5 g, 4.7 mmol, prewetted with DMF) was added a solution of methyl 2-[N-(tert-butoxycarbonyl)-N-(4-trifluoromethylbenzyl)aminomethyl]-4-methoxycinnamate (34.52 g, 72 mmol) in methanol (100 mL). The mixture was shaken under hydrogen (50 psi) in a Parr apparatus for 7 hr, then was filtered through a pad of celite® to remove the catalyst. The filtrate was concentrated to afford the title compound (34.15 g, 98%) as a colorless oil: 1 H NMR (400 MHz, CDCl3) 8 7.58 (d, J=8.1 Hz, 2 H), 7.31 (br s, 2 H), 7.09 (d, J=8.4 Hz, 1 H), 6.76 (dd, 1 H). 6.66 (s, 1 H), 4.47 (br s, 2 H), 4.40 (br s, 2 H), 3.76 (s, 3 H), 3.63 (s, 3 H), 2.79 (br s, 2 H), 2.47 (t, 2 H), 1.48 (s, 9 H).

reactant | methyl 2-[N-(tert-butoxycarbonyl)-N-(4-trifluoromethylbenzyl)aminomethyl]-4-methoxycinnamate | 72 mmol, 34.52 g | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=C(C=CC(=O)OC)C=CC(=C1)OC | C25H28F3NO5
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 4.7 mmol, 5 g | [Pd] | Pd
product | Methyl 2-[N-(tert-butoxycarbonyl)-N-(4-trifluoromethylbenzyl)aminomethyl]-4-methoxydihydrocinnamate | 34.15 g, 98% | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=C(CCC(=O)OC)C=CC(=C1)OC | C25H30F3NO5
